US05464811
Benzyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate (2.00 g, 5.51 mmol) synthesized as described above, 5% Pd/C (100 mg) as a catalyst, and toluene (15 ml) as a solvent were charged into a 50 cc round-bottom flask, and the inside of the flask was replaced sufficiently with a hydrogen gas. Then, in a hydrogen gas atmosphere, the mixture was thoroughly stirred for 8 hours at 50° C. After completion of the reaction, the catalyst was separated by filtration, the resulting filtrate was dried with anhydrous magnesium sulfate. After separating the drying agent by filtration, the solvent was distilled off under reduced pressure from the filtrate to obtain quantitatively 2-fluoro-4-chloro-5cyclopentyloxyaniline (1.26 g) as a pale brown oily substance. The spectral data and the like are shown in Reference Example 1.

reactant | Benzyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate | 5.51 mmol, 2.00 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(OCC1=CC=CC=C1)=O | C19H19ClFNO3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-4-chloro-5cyclopentyloxyaniline | 1.26 g | FC1=C(N)C=C(C(=C1)Cl)OC1CCCC1 | C11H13ClFNO
